US08058269B2
The mixture of rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (1 g, 2.703 mmol), piperazine-1-carboxylic acid tert-butyl ester (0.604 g, 3.24 mmol) and DIPEA (0.419 g, 3.24 mmol) in acetonitrile (20 mL) was stirred at room temperature for overnight. The reaction mixture was concentrated and extracted with dichloromethane. The organic layer was dried over Na2SO4, filtered and concentrated to give 1.1 g of rac-4-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperazine-1-carboxylic acid tert-butyl ester. MS m/z 476 (M+H)+.

reactant | rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 2.703 mmol, 1 g | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
reactant | piperazine-1-carboxylic acid tert-butyl ester | 3.24 mmol, 0.604 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | DIPEA | 3.24 mmol, 0.419 g | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | rac-4-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 1.1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C24H27Cl2N3O3
